US04992544
To a solution of D-malic acid (18.8 g., 140.2 mmole) in 150 ml. of freshly-distilled THF was added dicyclohexylcarbodiimide (DCC, 1.1 equiv.) and the mixture was stirred at room temperature for 45 minutes. The reaction mixture was filtered to remove the precipitate of dicyclohexylurea which formed. The precipitate was washed with two 50 ml. portions of THF and the washings were combined with the filtrate. To the combined filtrate and washings were added two equivalents of benzyl alcohol and the solution was stirred overnight at room temperature. The reaction mixture was evaporated to remove the solvent and the residual oil containing the monoester was dissolved in 100 ml. of ethyl acetate. The solution was extracted with three 50 ml. portions of a 10% solution of sodium carbonate in water and the extracts were combined, acidified to pH 2 and extracted with three 50 ml. portions of ethyl acetate. The extracts were combined, washed with 25 ml. of brine, dried over magnesium sulfate, filtered, and then evaporated to dryness to yield D-malic acid monobenzyl ester as an oil in 64% yield.

reactant | D-malic acid | 140.2 mmole, 18.8 g | C([C@H](O)CC(=O)O)(=O)O | C4H6O5
reactant | dicyclohexylcarbodiimide | 1.1 equiv. | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | benzyl alcohol | two equivalents | C(C1=CC=CC=C1)O | C7H8O
solvent | THF | C1CCOC1 | C4H8O
product | D-malic acid monobenzyl ester | 64% yield | C(C1=CC=CC=C1)OC([C@H](O)CC(=O)O)=O | C11H12O5
